US07282588B2
4-[3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine
A solution of 4-[1-{[4-(methyloxy)phenyl]methyl}-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine (0.22 mmol) in trifluoroacetic acid (0.75 mL) was heated at 740C for 1.5 h. The reaction mixture was diluted with water (4 mL) and extracted with (3×5 mL) ethyl acetate. The combined organic layers were dried over sodium sulfate and were concentrated. Purification of the residue by Gilson reverse phase HPLC afforded the title product as a yellow solid (64%). ESMS [M+H]+: 306.4

reactant | 4-[1-{[4-(methyloxy)phenyl]methyl}-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | 0.22 mmol | COC1=CC=C(C=C1)CN1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C24H19N5O3
solvent | trifluoroacetic acid | 0.75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 4 mL | O | H2O
product | 4-[3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | 64% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC=C1C1=C2C(=NC=C1)NC=C2 | C16H11N5O2
